US05112998
In 10 ml of diethyl carbonate was dissolved 350 mg of 20-(1,3-dioxolan-2-yl)-3β-acetoxy-1α-benzoyloxypregn-6-en-5α-ol, followed by addition of 0.1 ml of monochloroacetic acid. The mixture was stirred under heating at 100° C. in an atmosphere of argon gas for 10 hours. The reaction mixture was then worked up in the same manner as Example 124 to give 120 mg of 20-(1,3-dioxolan-2yl)-3β-acetoxy-1α-benzoyloxypregna-5,7-diene showing the following physical properties.

reactant | 20-(1,3-dioxolan-2-yl)-3β-acetoxy-1α-benzoyloxypregn-6-en-5α-ol | 350 mg | O1C(OCC1)C(C)[C@H]1CC[C@H]2[C@@H]3C=C[C@]4(C[C@H](C[C@@H]([C@]4(C)[C@H]3CC[C@]12C)OC(C1=CC=CC=C1)=O)OC(C)=O)O | C33H44O7
reactant | monochloroacetic acid | 0.1 ml | ClCC(=O)O | C2H3ClO2
solvent | diethyl carbonate | 10 ml | C(OCC)(OCC)=O | C5H10O3
product | 20-(1,3-dioxolan-2yl)-3β-acetoxy-1α-benzoyloxypregna-5,7-diene | 120 mg | O1C(OCC1)C(C)[C@H]1CC[C@H]2C3=CC=C4C[C@H](C[C@@H]([C@]4(C)[C@H]3CC[C@]12C)OC(C1=CC=CC=C1)=O)OC(C)=O | C33H42O6
